US05302720
A mixture of N-(2-biphenylyl)thiourea (9.6 g), methyl iodide (2.9 ml) and acetone (100 ml) was heated at 55° C. for 3 hours to yield 1-(2-biphenylyl)-2-methyl-2-thiopseudourea hydriodide.

reactant | N-(2-biphenylyl)thiourea | 9.6 g | C1(=C(C=CC=C1)NC(=S)N)C1=CC=CC=C1 | C13H12N2S
reactant | methyl iodide | 2.9 ml | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(2-biphenylyl)-2-methyl-2-thiopseudourea hydriodide | I.C1(=C(C=CC=C1)NC(SC)=N)C1=CC=CC=C1 | InChI=1S/C14H14N2S.HI/c1-17-14(15)16-13-10-6-5-9-12(13)11-7-3-2-4-8-11;/h2-10H,1H3,(H2,15,16);1H
